US08563576B2
tert-butyl (25)-4-[4-(2-fluoropyridine-3-carbonyl)-5-methyl-thiazol-2-yl]-2-isobutyl-piperazine-1-carboxylate
tert-butyl (25)-4-(4-bromo-5-methyl-thiazol-2-yl)-2-isobutyl-piperazine-1-carboxylate (921 mg, 1.737 mmol) in THF (10 mL) was cooled to −78° C. before BuLi (729.6 μL, 2.5 M in hexanes, 1.824 mmol) was added dropwise over approx. 10 mins (temperature kept below −70° C. during addition). Once added, mixture stirred at −78° C. for 30 mins before a solution of 2-fluoro-N-methoxy-N-methyl-pyridine-3-carboxamide (319.9 mg, 1.737 mmol) in THF (3 mL) was added dropwise at −78° C. at such a rate that temperature did not exceed −70° C. (−5 mins). Mixture then stirred at −78° C. for 2 h allowed to warm to room temperature over the weekend (3.5 days). Reaction quenched with water, diluted with EtOAc and organic layer separated, washed with brine, dried (MgSO4), filtered and concentrated in vacuo. Crude product purified by flash chromatography (80 g SiO2, 0 to 15% EtOAc/petrol) to leave product as a yellow solid (208 mg, 26%); 1H NMR DMSO-d6 δ 0.85 (d, 6H), 1.40-1.35 (m, 12H), 2.63 (s, 3H), 2.97-2.94 (m, 2H), 3.10 (dd, 1H), 3.58 (d, 2H), 3.87-3.80 (m, 1H), 4.20-4.13 (m, 1H), 7.49-7.46 (m, 1H), 8.17-8.12 (m, 1H), 8.39 (dd, 1H); ES+ 463.22.

reactant | tert-butyl (25)-4-(4-bromo-5-methyl-thiazol-2-yl)-2-isobutyl-piperazine-1-carboxylate | 1.737 mmol, 921 mg | BrC=1N=C(SC1C)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)CC(C)C | C17H28BrN3O2S
reactant | BuLi | 1.824 mmol, 2.5 M, 729.6 μL | [Li]CCCC
reactant | 2-fluoro-N-methoxy-N-methyl-pyridine-3-carboxamide | 1.737 mmol, 319.9 mg | FC1=NC=CC=C1C(=O)N(C)OC | C8H9FN2O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-butyl (25)-4-[4-(2-fluoropyridine-3-carbonyl)-5-methyl-thiazol-2-yl]-2-isobutyl-piperazine-1-carboxylate | 208 mg, 26% | FC1=NC=CC=C1C(=O)C=1N=C(SC1C)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)CC(C)C | C23H31FN4O3S
